US07226951B2
Ethyl-3-iodo-cinnamate (Reagent 6)
A stirred, cooled (−78° C.) solution of triethylphosphonoacetate (11.44 g, 51 mmol) in anhydrous tetrahydrofuran (100 mL) was treated with a 1.6M solution of n-butyl lithium in hexanes (30 mL, 48 mmol). After 10 min, the reaction mixture was cannulated into a cooled (−78° C.) solution of 4-iodo-benzaldehyde (3.7 g, 16 mmol) in tetrahydrofuran (20 mL). The reaction mixture was allowed to warm to 0° C. over 1 h. It was quenched with saturated aqueous ammonium chloride solution and extracted with diethyl ether (×2). The combined organic phase was dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to afford an oil that was subjected to flash column chromatography over silica gel (230–400 mesh) using 8–10% ethyl acetate in hexane as the eluent to afford the title compound (4.6 g, 95%).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-iodo-benzaldehyde | 16 mmol, 3.7 g | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Ethyl-3-iodo-cinnamate | 4.6 g, 95% | C(C)OC(C=CC1=CC(=CC=C1)I)=O | C11H11IO2
